US07064139B2
To a stirred solution of 4.0 g of 2-[((2,5-dimethylphenyl)methyl)thio]-3-methylpyridine-1-oxide in 50 mL of methanol, cooled to 3° C., was added a solution of 14.1 g of Oxone® in 50 mL of water over a period of 50 minutes. The reaction mixture was stirred at 24° C. overnight and then diluted with 200 mL of water. The product was extracted into chloroform and dried over magnesium sulfate. Evaporation of solvent under reduced pressure gave 4.1 g of 2-[((2,5-dimethylphenyl)methyl)sulfonyl]-3-methylpyridine-1-oxide as a white crystalline solid, having a melting point of 171–173° C. The 1H NMR spectrum (CDCl3) was in agreement with the expected structure.

reactant | 2-[((2,5-dimethylphenyl)methyl)thio]-3-methylpyridine-1-oxide | 4.0 g | CC1=C(C=C(C=C1)C)CSC1=[N+](C=CC=C1C)[O-] | C15H17NOS
reactant | Oxone | 14.1 g | OOS(=O)[O-].[K+]
reactant | water | 50 mL | O | H2O
reactant | water | 200 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 2-[((2,5-dimethylphenyl)methyl)sulfonyl]-3-methylpyridine-1-oxide | 4.1 g | CC1=C(C=C(C=C1)C)CS(=O)(=O)C1=[N+](C=CC=C1C)[O-] | C15H17NO3S
